US07541374B2
1.42 g of 3-t-butyl-1H-pyrazole was dissolved to 230 ml of chloroform. 1.55 g of N-chlorosuccinimide was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography to obtain 0.62 of 3-t-butyl-4-chloro-1H-pyrazole.

reactant | 3-t-butyl-1H-pyrazole | 1.42 g | C(C)(C)(C)C1=NNC=C1 | C7H12N2
reactant | N-chlorosuccinimide | 1.55 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 230 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-t-butyl-4-chloro-1H-pyrazole | C(C)(C)(C)C1=NNC=C1Cl | C7H11ClN2
